US04419352
(a) Methyl 6-acetyl-7-hydroxy-4-phenoxy-8-propyl-quinoline-2-carboxylate
Phenol (10.0 g) which had been crushed in a mortar and pestle, was added to crushed potassium hydroxide (0.36 g) in a flask which was immersed in an oil bath. This was stirred at 60°-65° C. for 5 minutes before methyl 6-acetyl-4-chloro-7-hydroxy-8-propyl-quinoline-2-carboxylate (1.0 g) was added. The whole was stirred at 60°-65° C. for 1.5 hours and the phenol was then removed by steam distillation.

reactant | Phenol | 10.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | 0.36 g | [OH-].[K+]
reactant | methyl 6-acetyl-4-chloro-7-hydroxy-8-propyl-quinoline-2-carboxylate | 1.0 g | C(C)(=O)C=1C=C2C(=CC(=NC2=C(C1O)CCC)C(=O)OC)Cl | C16H16ClNO4
product | Methyl 6-acetyl-7-hydroxy-4-phenoxy-8-propyl-quinoline-2-carboxylate | C(C)(=O)C=1C=C2C(=CC(=NC2=C(C1O)CCC)C(=O)OC)OC1=CC=CC=C1 | C22H21NO5
